* source I-TESTCURRENT-001
I_I2         N20046 0 DC 0Adc AC 0Aac
+PULSE 0 4m 2n 30p 150p 0p 10n
I_I3         N20046 0 DC 0Adc AC 0Aac
+PULSE 0 2m 2n 60p 2n 50p 10n
R_R2         0 ITEST  1k TC=0,0 
R_R1         N20046 ITEST  1k TC=0,0 
